US07238725B2
Step 4: N4-(3,5-dichloro-4-pyridyl)-6-chloro-1-methoxy-9-methyl-9H-4-carbazole carboxamide
To a solution of 4-nitrophenyl-6-chloro-1-methoxy-9-methyl-9H-4-carbazole carboxylate (160 mg, 0.4255 mmoles), and 3,5-dichloro-4-amino pyridine (69.36 mg, 0.4255 mmoles) in dry DMF (7 mL) at 25° C., sodium hydride 55% (34 mg, 0.8510 mmoles) was added and stirred under nitrogen atmosphere for 1 hr. The reaction mixture was quenched in ice cold water (25 mL) and extracted with ethyl acetate (2×25 mL). The organic layer was washed with bicarbonate (2×25 mL), followed by 1N HCl (2×25 mL) and with brine (25 mL), dried over sodium sulphate and concentrated to give the 90 mg of the title compound.

reactant | 4-nitrophenyl-6-chloro-1-methoxy-9-methyl-9H-4-carbazole carboxylate | 0.4255 mmoles, 160 mg | [N+](=O)([O-])C1=CC=C(C=C1)C1=C(C=2N(C3=CC=C(C=C3C2C(=C1)C(=O)[O-])Cl)C)OC
reactant | 3,5-dichloro-4-amino pyridine | 0.4255 mmoles, 69.36 mg | ClC=1C=NC=C(C1N)Cl | C5H4Cl2N2
reactant | sodium hydride | 0.8510 mmoles, 34 mg | [H-].[Na+]
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
product | N4-(3,5-dichloro-4-pyridyl)-6-chloro-1-methoxy-9-methyl-9H-4-carbazole carboxamide | 90 mg | ClC=1C=NC=C(C1NC(=O)C1=CC=C(C=2N(C3=CC=C(C=C3C12)Cl)C)OC)Cl | C20H14Cl3N3O2
